US06982348B2
To a solution of ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]propionate (1.402 g, 3.425 mmol) in methanol (30 ml) was added 1N aqueous sodium hydroxide solution (6.85 ml, 6.85 mmol), and the mixture was stirred at room temperature for 2 hrs. The reaction solution was concentrated and diluted with water. The reaction solution was acidified with 1N hydrochloric acid, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give a crude product of (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]propionic acid as a colorless liquid.

reactant | ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]propionate | 3.425 mmol, 1.402 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=NO1)OC(C(F)F)(F)F)O | C17H16F5NO5
reactant | sodium hydroxide | 6.85 mmol, 1N, 6.85 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]propionic acid | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=NO1)OC(C(F)F)(F)F)O | C15H12F5NO5
